US09382238B2
To a mixture of 2-(4-bromo-2-fluorophenyl)acetic acid (360 mg, 1.545 mmol) in DCM (50 mL) was added 3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-amine (300 mg, 1.545 mmol), HATU (881 mg, 2.317 mmol) and triethylamine (0.645 mL, 4.63 mmol). Then the mixture was stirred at 25° C. for 12 h. The mixture was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated to yield a yellow oil of 2-(4-bromo-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (600 mg, 1.1 mmol, 71% yield): 1H NMR (400 MHz, CDCl3) δ 8.09 (d, J=6.8 Hz, 1H), 7.34-7.29 (m, 1H), 7.21 (s, 1H), 6.64 (d, J=6.8 Hz, 1H), 6.43 (s, 1H), 3.75 (s, 2H), 1.52 (s, 6H); ES-LCMS m/z 409 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)acetic acid | 1.545 mmol, 360 mg | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | 3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-amine | 1.545 mmol, 300 mg | FC(C(C)(C)C1=NOC(=C1)N)(F)F | C7H9F3N2O
reactant | HATU | 2.317 mmol, 881 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4.63 mmol, 0.645 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 1.1 mmol, 600 mg, 71% yield | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C15H13BrF4N2O2
